US05071876
Preparation of 2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-(2,6-dimethylphenyl)acetamide
The title compound was prepared by dissolving 2-chloro-N-(2,6-dimethylphenyl)acetamide (1.8 g, 0.0091 mole) and 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (2.17 g, 0.0091 mole) in acetonitrile (20 ml) under argon. Triethylamine (1.25 ml) was added and the solution stirred at room temperature under argon for 12 hours. The solution was acidified with 10% hydrochloric acid with stirring, extracted with ethyl acetate (3X), the extracts combined, washed with water and dried over sodium sulfate. The solvent was removed on a rotary evaporator and the product purified by chromatography over silica and recrystallized from ethyl acetate/benzene, m.p. ca. 137.7° C.

reactant | 2-chloro-N-(2,6-dimethylphenyl)acetamide | 0.0091 mole, 1.8 g | ClCC(=O)NC1=C(C=CC=C1C)C | C10H12ClNO
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.0091 mole, 2.17 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | Triethylamine | 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-(2,6-dimethylphenyl)acetamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCC(=O)NC1=C(C=CC=C1C)C | C24H33NO2S
